### ISSUE TITLE
`example : Prop := by canonical` is reported as "proof found", but the suggested proof does not work

### ISSUE THREAD

**Issue by euprunin** [chasenorman/CanonicalLean#13]
Both `example : Type := by canonical` and `example : Prop := by canonical` are reported as "proof found" (`Try this: …`), but only the first one works:

```
import Canonical

-- Suggestion works
example : Type := by canonical

-- Suggestion does not work ("type mismatch …")
example : Prop := by canonical
```
